US08791161B2
N-(2-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfonyl}ethyl)acetamide
To a solution of N-{2-[(2-aminoethyl)sulfonyl]-5-chlorophenyl}-4-chloro-3-(trifluoromethyl)benzenesulfonamide (23 mg, 0.048 mmol) in CH2Cl2 (2 ml) was added Et3N (14 μl, 0.10 mmol), acetic anhydride (5 μl, 0.053 mmol), and catalytic amount of DMAP. The reaction was stirred at room temperature for 1 h and was concentrated. The crude product was purified by column chromatography on silica gel (0→10% MeOH in ethyl acetate), followed by PTLC (10% MeOH in ethyl acetate) to give the title compound.

reactant | N-{2-[(2-aminoethyl)sulfonyl]-5-chlorophenyl}-4-chloro-3-(trifluoromethyl)benzenesulfonamide | 0.048 mmol, 23 mg | NCCS(=O)(=O)C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H13Cl2F3N2O4S2
reactant | Et3N | 0.10 mmol, 14 μl | CCN(CC)CC | C6H15N
reactant | acetic anhydride | 0.053 mmol, 5 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(2-{[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfonyl}ethyl)acetamide | ClC1=CC(=C(C=C1)S(=O)(=O)CCNC(C)=O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C17H15Cl2F3N2O5S2
